US07855202B2
5-Nitro-2-(1,3-oxazol-2-yl)-3,4′-bipyridin-6-amine
An oven-dried resealable Schlenk tube was charged with 5-bromo-3-nitro-6-(1,3-oxazol-2-yl)pyridin-2-amine (0.141 g, 0.49 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.203 g, 0.99 mmol), dioxane (5 mL) and a 2M aqueous solution of cesium carbonate (0.74 mL, 1.48 mmol). The Schlenk tube was subjected to three cycles of evacuation-backfilling with argon, and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex [PdCl2dppf.DCM] (0.024 g, 0.03 mmol) was added. After three new cycles of evacuation-backfilling with argon, the Schlenk tube was sealed and the mixture was stirred and heated in an oil bath to 95° C. After 20 hours, the mixture was cooled and partitioned between 2M aqueous hydrochloric acid and ethyl acetate. The aqueous phase was filtered through Celite® and the pH was adjusted to 5-6 with solid sodium hydroxide. The suspension was cooled in an ice bath and the precipitate was filtered, washed with water and dried to give the title compound (0.090 g, 65%) as a yellow solid.

reactant | 5-bromo-3-nitro-6-(1,3-oxazol-2-yl)pyridin-2-amine | 0.49 mmol, 0.141 g | BrC=1C=C(C(=NC1C=1OC=CN1)N)[N+](=O)[O-] | C8H5BrN4O3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.99 mmol, 0.203 g | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | cesium carbonate | 1.48 mmol, 0.74 mL | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane | 0.03 mmol, 0.024 g | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-Nitro-2-(1,3-oxazol-2-yl)-3,4′-bipyridin-6-amine | 0.090 g, 65% | [N+](=O)([O-])C=1C=C(C(=NC1N)C=1OC=CN1)C1=CC=NC=C1 | C13H9N5O3
